US05977105
b) 3-Fluoro-4-propoxybenzeneboronic acid
A solution n-butyllithium (2.5 M in hexanes, 4.4 ml) was added dropwise over 5 minutes to a stirring solution of 1-bromo-3-fluoro-4-propoxybenzene (2.3 g) in tetrahydrofuran (10 ml) at -70° C. The solution was stirred at -70° C. for 15 minutes and then transferred by cannula to a solution of triisopropyl borate (4.14 g) in tetrahydrofuran (10 ml) at -78° C. Once addition was complete the mixture was stirred at room temperature for 30 minutes. A solution of dilute hydrochloric acid (2 M, 30 ml) was added and the mixture extracted with ethyl acetate (3×50 ml). The combined organic extracts were dried over anhydrous magnesium sulfate, filtered and concentrated under reduced pressure to give the sub-title compound as a white solid (1.19 g).

reactant | n-butyllithium | 2.5 M, 4.4 ml | C(CCC)[Li]
reactant | 1-bromo-3-fluoro-4-propoxybenzene | 2.3 g | BrC1=CC(=C(C=C1)OCCC)F | C9H10BrFO
reactant | triisopropyl borate | 4.14 g | B(OC(C)C)(OC(C)C)OC(C)C | C9H21BO3
reactant | hydrochloric acid | 2 M, 30 ml | Cl | ClH
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | 3-Fluoro-4-propoxybenzeneboronic acid | 1.19 g | FC=1C=C(C=CC1OCCC)B(O)O | C9H12BFO3
